US06906067B2
8-Methyl-3-phenyl-2,3-dihydro-9bH-oxazolo[2,3-α]isoindol-5-one
3-hydroxy-5-methyl-3H-isobenzofuran-1-one (4.66 g, 28.39 mmol) and H-phenylglycinol (3.89 g, 28.39 mmol) was taken up in dry toluene and heated to reflux under argon for 12 h. The water generated was collected in a Dean-Stark trap. The reaction mixture was cooled to room temp and poured into 1N HCl and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with saturated sodium bicarbonate, water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (4:1 hexane/ethyl acetate) Yield 5.20 g.

reactant | 3-hydroxy-5-methyl-3H-isobenzofuran-1-one | 28.39 mmol, 4.66 g | OC1OC(C2=CC=C(C=C12)C)=O | C9H8O3
reactant | H-phenylglycinol | 28.39 mmol, 3.89 g | C1=CC=C(C=C1)[C@@H](CO)N | C8H11NO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8-Methyl-3-phenyl-2,3-dihydro-9bH-oxazolo[2,3-α]isoindol-5-one | CC1=CC=C2C(N3C(C2=C1)OCC3C3=CC=CC=C3)=O | C17H15NO2
